US04382142
10 g of N-benzyloxycarbonyl-DL-valine, 4.1 g of triethylamine, 150 ml of chloroform, 4.4 g of ethyl chlorocarbonate and 4.1 g of 2-amino-1,3,4-thiadiazole were reacted in the same manner as in Example 1(i) to obtain 10.5 g (yield: 79%) of 2-(N-benzyloxycarbonyl-DL-valylamino)-1,3,4-thiadiazole as white crystals having a melting point of 162°-164° C.

reactant | N-benzyloxycarbonyl-DL-valine | 10 g | C(C1=CC=CC=C1)OC(=O)NC(C(C)C)C(=O)O | C13H17NO4
reactant | triethylamine | 4.1 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 4.4 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | 2-amino-1,3,4-thiadiazole | 4.1 g | NC=1SC=NN1 | C2H3N3S
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(N-benzyloxycarbonyl-DL-valylamino)-1,3,4-thiadiazole | 10.5 g, yield: 79% | C(C1=CC=CC=C1)OC(=O)NC(C(C)C)C(=O)NC=1SC=NN1 | C15H18N4O3S
